US07947683B2
4-methyl-3-(2-methyl-1,3-thiazol-5-yl)-5-(4-penten-1-yl)-4H-1,2,4-triazole
The title compound was prepared in analogy to the method described in Preparation 11 starting from 2-methyl-1,3-thiazole-5-carbohydrazide and N,N′-dimethyl-5-hexenimidamide hydrochloride in 43% yield by column chromatography.

reactant | 2-methyl-1,3-thiazole-5-carbohydrazide | CC=1SC(=CN1)C(=O)NN | C5H7N3OS
reactant | N,N′-dimethyl-5-hexenimidamide hydrochloride | Cl.CNC(CCCC=C)=NC
product | 4-methyl-3-(2-methyl-1,3-thiazol-5-yl)-5-(4-penten-1-yl)-4H-1,2,4-triazole | 43% yield | CN1C(=NN=C1CCCC=C)C1=CN=C(S1)C | C12H16N4S
